US06949579B2
0.81 g of 86% 4-methylthiophenylboronic acid, 1.24 g of caesium fluoride, 13.5 mg of palladium acetate and finally 31 mg of 2-dicyclohexylphosphine-2-(N,N-dimethylamino)biphenyl are added to 1 g of N-[6-chloro-1-[[2-(trimethylsilyl)-ethoxy]methyl]-1H-indazol-3-yl]butanamide, described previously in Example 25, in 30 cm3 of dioxane. The mixture is then heated at about 100° C. for 20 hours, the temperature is allowed to return to room temperature over 72 hours and the reaction medium is then filtered on a sinter funnel and evaporated under reduced pressure (2 kPa; 50° C.). The work-up and the purification are performed by analogy with Example 41 above; 0.60 g of N-[6-(4-methylthiophenyl)-1-[[2-(trimethylsilyl)-ethoxy]methyl]-1H-indazol-3-yl]butanamide is thus obtained in the form of a yellow oil.

reactant | 4-methylthiophenylboronic acid | 0.81 g | CSC1=CC=C(C=C1)B(O)O | C7H9BO2S
reactant | caesium fluoride | 1.24 g | [F-].[Cs+]
reactant | N-[6-chloro-1-[[2-(trimethylsilyl)-ethoxy]methyl]-1H-indazol-3-yl]butanamide | 1 g | ClC1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)NC(CCC)=O | C17H26ClN3O2Si
solvent | dioxane | 30 cm3 | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 13.5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N-[6-(4-methylthiophenyl)-1-[[2-(trimethylsilyl)-ethoxy]methyl]-1H-indazol-3-yl]butanamide | 0.60 g | CSC1=CC=C(C=C1)C1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)NC(CCC)=O | C24H33N3O2SSi
